US09145409B2
Intermediate 11. Methyl 1-methyl-5-(((methylsulfonyl)oxy)methyl)-1H-pyrazole-3-carboxylate (I11)
To an ice-cooled solution of methyl 5-(hydroxymethyl)-1-methyl-1H-pyrazole-3-carboxylate (0.60 g, 3.51 mmol) and triethylamine (1.22 mL, 8.77 mmol) in DCM (10 mL) was added methanesulfonyl chloride (0.41 mL, 5.26 mmol). The reaction mixture was stirred in the ice bath for 15 minutes and then the mixture was allowed to warm to room temperature. The reaction mixture was stirred at RT for 1 hour. The reaction mixture was diluted with DCM and washed with water and brine. The organic phase was dried over magnesium sulfate, filtered and the solvent was evaporated in vacuo. The crude material was used in the next step without further purification.

reactant | methyl 5-(hydroxymethyl)-1-methyl-1H-pyrazole-3-carboxylate | 3.51 mmol, 0.60 g | OCC1=CC(=NN1C)C(=O)OC | C7H10N2O3
reactant | triethylamine | 8.77 mmol, 1.22 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 5.26 mmol, 0.41 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | Methyl 1-methyl-5-(((methylsulfonyl)oxy)methyl)-1H-pyrazole-3-carboxylate | CN1N=C(C=C1COS(=O)(=O)C)C(=O)OC | C8H12N2O5S
